US03950333
A solution of 2-mercaptoimidazole (2 g.) and 3-aminopropanol (1.14 ml.) in hydrobromic acid (48%, 25 ml.) was heated under reflux for 25 hours. The reaction mixture was evaporated to dryness and the oily residual solid recrystallized twice from ethanol/ether to give 2-(3-aminopropylthio)imidazole dihydrobromide (3.55 g.), m.p. 160°-162°.

reactant | 2-mercaptoimidazole | 2 g | SC=1NC=CN1 | C3H4N2S
reactant | 3-aminopropanol | 1.14 ml | NCCCO | C3H9NO
reactant | hydrobromic acid | 25 ml | Br | BrH
product | 2-(3-aminopropylthio)imidazole dihydrobromide | 3.55 g | Br.Br.NCCCSC=1NC=CN1 | InChI=1S/C6H11N3S.2BrH/c7-2-1-5-10-6-8-3-4-9-6;;/h3-4H,1-2,5,7H2,(H,8,9);2*1H
